US06436951B1
1.g. 1-(2-oxo-1,2-dihydro-4-pyridinyl)-1-propanone
A mixture of 4-(2-ethyl-1,3-dioxan-2-yl)-2-methoxypyridine (prepared according to the method described in the Patent Application PCT/FR96/00980, 57 g, 255 mmol) and sodium iodide (88 g, 580 mmol) in acetonitrile (1 l) is treated with trimethylsilane chloride (74 ml, 586 mmol), taken to reflux for 3 hours, then agitated at ambient temperature for 16 hours. The reaction medium is then treated with water (100 ml) and concentrated to dryness after elimination of the insolubles by filtration. The residue is taken up in ethyl acetate and washed successively with water and with an aqueous solution saturated in sodium chloride. The organic phase is dried, concentrated under reduced pressure, and the residue is taken up in diethyl ether in order to produce after filtration and drying 30 g (88%) of a white solid, m.p. 168° C.

reactant | 4-(2-ethyl-1,3-dioxan-2-yl)-2-methoxypyridine | C(C)C1(OCCCO1)C1=CC(=NC=C1)OC | C12H17NO3
reactant | sodium iodide | 580 mmol, 88 g | [I-].[Na+]
reactant | trimethylsilane chloride | 586 mmol, 74 ml | [Cl-].C[SiH](C)C
reactant | water | 100 ml | O | H2O
solvent | acetonitrile | 1 l | C(C)#N | C2H3N
product | 1-(2-oxo-1,2-dihydro-4-pyridinyl)-1-propanone | O=C1NC=CC(=C1)C(CC)=O | C8H9NO2
